Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Egg Derived / ___ / Seafood
 
Attending: ___.
 
Chief Complaint:
Fall  

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 ___ HTN, dementia, diabetes type 2, CKD IV, anemia, gait 
disorder with history of falls, recent hip fracture s/p hip 
replacement, depression, B12 deficiency, vitamin D deficiency, 
urinary incontinence, who was transferred after a recent fall at 
___ admitted for UTI.  
 She had fall overnight on ___. She was found on the floor with 
a large laceration to back of head. Unclear whether she had 
syncope. She was unable to describe how the fall occurred. On 
initial presentation, she denied chest pain, shortness of 
breath, lightheadedness, headache, neck pain, extremity pain.  
 In the ED, initial VS were:  
 98.3 63 182/86 18 98% RA  
 On arrival to the ED, exam was notable for 3 cm laceration on 
the posterior scalp which was repaired with staples.  
 Labs were notable for:  
 UA with >182 WBC, few bacteria, Lg leuks, Tr Bld, Tr protein  
 Cr 1.3  
 WBC 11.8  
 Imaging was notable for unremarkable CT head and C-spine, CXR 
with persistent elevation of the left hemidiaphragm, no definite 
consolidation.  
 Received:  
 ___ 12:04 IM Tetanus-DiphTox-Acellular Pertuss (Adacel) 
.5 mL ___ 12:41 IV CeftriaXONE ___ 13:42 IV 
CeftriaXONE 1 gm ___ 18:48 PO/NG amLODIPine 5 mg 
___ 18:48 PO RisperiDONE 1 mg ___ 18:48 PO/NG 
Sertraline 50 mg  
 Transfer VS were:  
 98.3 62 127/60 18 97% RA  
 In discussion with geriatrics, decision was made to admit to 
medicine for further management.  
 Of note she lives at ___ in ___, 
___.  
 On arrival to the floor, patient is unable to provide history 
due to baseline dementia. She is unable to remember why she came 
in but does recall that she fell when asked. She said she fell 
because "it was too much" but was unable to elaborate. She 
denies F/C, N/V, SOB, CP/dizziness, abdominal pain, 
constipation/diarrhea, or weakness.  
 
Past Medical History:
dementia  
 hypertension  
 diabetes  
 chronic kidney disease  
 anemia  
 gait instability  
 hyperlipidemia  
 depression  
 B12 deficiency  
 vitamin D deficiency  
 urinary incontinence  
 
Social History:
___
Family History:
Noncontributory  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.0PO 116 / 62 63 18 89  
GENERAL: Somnolent but arousable, falls asleep during 
conversation  
HEENT: AT/NC, serous discharge around eyes b/l, PERRL, anicteric 
sclera, pink conjunctiva, MMM,  
NECK: supple neck  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB  
ABDOMEN: nondistended, nontender in all quadrants,  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: A&Ox1, somnolent but arousable and able to answer 
questions in sentences. Follows commands. Face symmetric, ___ 
grip on hands b/l.  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:  
VS: 98.3  148/73  72  20  94/RA 
GENERAL: Somnolent but arousable, falls asleep during 
conversation  
HEENT: AT/NC, serous discharge around eyes b/l, PERRL, anicteric 
sclera, pink conjunctiva, MMM,  
NECK: supple neck  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB  
ABDOMEN: nondistended, nontender in all quadrants,  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: A&Ox1, able to answer questions in sentences. Follows 
commands. Face symmetric, moving all 4 extremities.  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

 
Pertinent Results:
ADMISSION LABS
___ 09:10AM BLOOD WBC-11.8* RBC-3.81* Hgb-10.8* Hct-34.1 
MCV-90 MCH-28.3 MCHC-31.7* RDW-14.0 RDWSD-45.8 Plt ___
___ 09:10AM BLOOD Neuts-78.4* Lymphs-9.3* Monos-7.9 Eos-2.8 
Baso-0.4 Im ___ AbsNeut-9.29* AbsLymp-1.10* AbsMono-0.93* 
AbsEos-0.33 AbsBaso-0.05
___ 09:10AM BLOOD ___ PTT-28.9 ___
___ 09:10AM BLOOD Glucose-93 UreaN-22* Creat-1.3* Na-137 
K-4.7 Cl-100 HCO3-26 AnGap-16
___ 06:17AM BLOOD Calcium-8.6 Phos-4.5 Mg-2.0

DISCHARGE LABS
___ 06:00AM BLOOD WBC-7.5 RBC-3.50* Hgb-9.8* Hct-30.8* 
MCV-88 MCH-28.0 MCHC-31.8* RDW-13.8 RDWSD-44.5 Plt ___
___ 06:00AM BLOOD ___ PTT-30.8 ___
___ 06:00AM BLOOD Glucose-155* UreaN-21* Creat-1.2* Na-140 
K-4.4 Cl-103 HCO3-26 AnGap-15
___ 06:00AM BLOOD Calcium-8.4 Phos-3.7 Mg-2.___-SPINE W/O CONTRAST ___
IMPRESSION: 
No fracture or alignment abnormality.  Degenerative changes 
appear grossly unchanged, detailed above.

CT HEAD W/O CONTRAST ___
IMPRESSION: 
No acute intracranial process.  Left posterior scalp soft tissue
swelling/laceration.

CHEST (PA & LAT) ___
FINDINGS: 
AP upright and lateral views of the chest provided.
There is persistent elevation of the left hemidiaphragm.  Heart 
size is
difficult to assess given the effacement of the left heart 
border from the left hemidiaphragmatic elevation.  Right lung 
appears clear.  No definite consolidation, large effusion or 
pneumothorax.  Mediastinal contour appears grossly stable.  Bony 
structures appear intact.

MICROBIOLOGY
Close
___ 10:58 am URINE
   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
___ HTN, dementia, diabetes type 2, CKD IV, anemia, gait 
disorder with history of falls, recent hip fracture s/p hip 
replacement, depression, B12 deficiency, vitamin D deficiency, 
urinary incontinence, p/w fall.  

# Fall: Mechanism of fall is unclear, and it is unknown if she 
had syncope. Has recent hx of outpatient visit for generalized 
weakness, found to have decreased strength and endurance. HR ___ 
off metoprolol. FSG 140-300 off home glipizide. Likely 
mechanical fall given ongoing gait disorder, and is being 
discharged to rehab for further physical therapy per ___ recs. 
Ddx also includes fall ___ to UTI (treated with CTX); 
bradycardia (stopped metoprolol, HR improved from ___ to 
___ vs orthostasis (stopped losartan/HCTZ with BP remaining in 
appropriate range) vs hypoglycemia (stopped glimepiride with FSG 
remaining in appropriate range). 

# UTI: Has history of previous UTIs, including pansensitive 
E.coli in ___. WBC below previous baseline. Completed 
Ceftriaxone x 3 days (last day ___. Cultures demonstrated 
pan-sensitive klebsiella. 

CHRONIC ISSUES:  

# T2DM: discontinued home Glimepiride due to concern for 
hypoglycemia

# Dysphagia: Evaluated by speech and swallow, cleared for 
regular diet  

# CKD: Cr is similar to previous value in ___.  

# Depression, dementia:  Continued home risperidone and 
sertraline  

TRANSITIONAL ISSUES
-Held home Metoprolol Succinate, losartan/HCTZ, Glimepiride:
--Would expect SBP to increase over the next few days as HCTZ 
breaks down. IF SBP persistently >160, would increase amlodipine 
dose to 10mg daily. PCP can restart losartan for renal 
protection as an outpatient and titrate BP meds further
--Would expect HR to increase over the next few days as 
Metoprolol breaks down. IF resting persistently HR >90, would 
start metoprolol succinate 25mg PO daily, and can uptitrate 
every ___ as needed for goal resting HR <90 
-Please remove staples from scalp on ___
-Please recheck CBC to monitor for resolution of anemia in a few 
weeks 
#CODE: Full (confirmed)
#CONTACT: ___ (sister) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. glimepiride 2 mg oral DAILY 
3. losartan-hydrochlorothiazide unknown  oral DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. RisperiDONE (Disintegrating Tablet) 1 mg PO QHS 
6. Metoprolol Succinate XL 200 mg PO DAILY 
7. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1.  MetFORMIN (Glucophage) 500 mg PO BID  
2.  amLODIPine 5 mg PO DAILY  
3.  RisperiDONE (Disintegrating Tablet) 0.25 mg PO QHS  
4.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY
Fall
Urinary Tract Infection

SECONDARY
Diabetes Mellitus
Chronic Kidney Disease
Dysphagia
Depression

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___. As you know you were admitted following a fall. 
It is unclear why you fell, but think it may be related to some 
of your medications. We treated you with antibiotics for a 
urinary tract infection which may have contributed to the fall 
as well. You were seen by the physical therapist who recommended 
discharge to a rehabilitation facility. 

Please take your medications as instructed - note that there are 
several medications which you were taking before which you 
should no longer take because they may have contributed to your 
fall.  

Please follow up with your health care providers at the 
appointments listed below. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___